US07772253B2
6-Amino-N-[1-(4-chloro-3-ethoxy-benzyl)piperidin-4-yl]-nicotinamide
1-(4-Chloro-3-ethoxy-benzyl)piperidin-4-ylamine (0.33 g, 1.0 mmol), 6-amino-nicotinic acid (0.17 g, 1.0 mmol) and EDCI (0.28 g, 1.2 mmol) were mixed with DMF (5 ml) and heated to 60° C. for 24 h, after which time the reaction was allowed to cool, poured into dilute NaHCO3 and extracted with EtOAc. The combined organic was dried (Na2SO4) and concentrated. The residue was purified by flash column chromatography (DCM:MeOH 9:1-4:1) affording the title product (0.12 g, 24%).

reactant | 1-(4-Chloro-3-ethoxy-benzyl)piperidin-4-ylamine | 1.0 mmol, 0.33 g | ClC1=C(C=C(CN2CCC(CC2)N)C=C1)OCC | C14H21ClN2O
reactant | 6-amino-nicotinic acid | 1.0 mmol, 0.17 g | NC1=NC=C(C(=O)O)C=C1 | C6H6N2O2
reactant | EDCI | 1.2 mmol, 0.28 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 6-Amino-N-[1-(4-chloro-3-ethoxy-benzyl)piperidin-4-yl]-nicotinamide | 0.12 g, 24% | NC1=NC=C(C(=O)NC2CCN(CC2)CC2=CC(=C(C=C2)Cl)OCC)C=C1 | C20H25ClN4O2
